US07160888B2
Synthesis of 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4,4-dimethyl-1,4-dihydro-pyrido[2,3-d][1,3]oxazin-2-one
To a solution of 2-(2-amino-6-{5-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-pentyl}-pyridin-3-yl)-propan-2-ol (442 mg, 0.98 mmol) in THF (4 mL) and toluene (1 mL) was added Et3N (0.30 mL, 2.15 mmol, 2.2 equiv). The mixture was cooled to 0° C. and phosgene (20% in toluene, 0.65 mL, 1.3 mmol) was added. A precipitate formed. The reaction was stirred at 0° C. for 15 min and at room temperature for 2 h. MeOH was added to quench the excess phosgene. Saturated NaHCO3 and H2O were added and the mixture was extracted with EtOAc. The organic layer was washed with H2O and brine, dried over Na2SO4 and concentrated. Purification by liquid chromatography (3.5% MeOH/CH2Cl2) gave the title compound as a white foam (411 mg, 0.861 mmol, 88%). The foam was dissolved in Et2O/CH2Cl2 and 1 M HCl in Et2O (0.86 mL) was added. The resulting white precipitate was collected by filtration, washed with Et2O and dried to give a fluffy white solid (400 mg). MS: APCI: M+1: 477.1 (Exact Mass: 476.17).

reactant | 2-(2-amino-6-{5-[4-(2,3-dichloro-phenyl)-piperazin-1-yl]-pentyl}-pyridin-3-yl)-propan-2-ol | 0.98 mmol, 442 mg | NC1=NC(=CC=C1C(C)(C)O)CCCCCN1CCN(CC1)C1=C(C(=CC=C1)Cl)Cl | C23H32Cl2N4O
reactant | Et3N | 2.15 mmol, 0.30 mL, 2.2 equiv | CCN(CC)CC | C6H15N
reactant | phosgene | 1.3 mmol, 0.65 mL | C(=O)(Cl)Cl | CCl2O
reactant | MeOH | CO | CH4O
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | toluene | 1 mL | C1(=CC=CC=C1)C | C7H8
product | 7-{5-[4-(2,3-Dichloro-phenyl)-piperazin-1-yl]-pentyl}-4,4-dimethyl-1,4-dihydro-pyrido[2,3-d][1,3]oxazin-2-one | 0.861 mmol, 411 mg, 88% | ClC1=C(C=CC=C1Cl)N1CCN(CC1)CCCCCC=1C=CC2=C(NC(OC2(C)C)=O)N1 | C24H30Cl2N4O2
